US05004745
A suspension of 0.8 g of 3-ethoxycarbonyl-7,9-difluoro-1-methyl-4-oxo-8-(1-piperazinyl)-1,4-dihydrobenzo[b][1,8]naphthyridine in 20 cm3 of ethanol and 20 cm3 of N aqueous potassium hydroxide solution is heated at a temperature close to 75° C. for 1 hour and a half. 12 g of a 10% aqueous acetic acid solution are added to the solution obtained, at this temperature. The insoluble matter obtained is drained at about 75° C. and washed 3 times with 30 cm3 of water at about 20° C. After recrystallizing once from 90 cm3 of dimethylformamide, 0.5 g of 7,9-difluoro-1-methyl-4-oxo-8-(1-piperazinyl)-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid is obtained in the form of a yellow solid melting at 345°-347° C.

reactant | 3-ethoxycarbonyl-7,9-difluoro-1-methyl-4-oxo-8-(1-piperazinyl)-1,4-dihydrobenzo[b][1,8]naphthyridine | 0.8 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C(=C(C(=C3)F)N3CCNCC3)F)=O | C20H20F2N4O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 20 cm3 | C(C)O | C2H6O
product | 7,9-difluoro-1-methyl-4-oxo-8-(1-piperazinyl)-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 0.5 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C(=C1N1CCNCC1)F | C18H16F2N4O3
